US08293735B2
2-Chloro-6-(7-methyl-2,7-diaza-spiro[3.5]non-2-ylmethyl)-4-morpholin-4-yl-thieno[3,2-d]pyrimidine
To a solution of 2-chloro-4-morpholin-4-yl-thieno[3,2-d]pyrimidine-6-carbaldehyde (72 mg, 0.254 mmol) in DCE (7 mL) was added 7-methyl-2,7-diaza-spiro[3.5]nonane (45 mg, 0.321 mmol). The mixture was stirred at RT for 10 min, then sodium triacetoxyborohydride (81 mg, 0.382 mmol) was added and stirring was continued for 3 h. To the reaction mixture was added water and the resulting solution was loaded onto an Isolute® SCX-2 cartridge. The cartridge was washed with MeOH and the desired product was eluted with 2 M NH3 in MeOH an concentrated in vacuo. The resultant residue was purified by column chromatography to give the title compound as a yellow oil (31 mg, 30%).

reactant | 2-chloro-4-morpholin-4-yl-thieno[3,2-d]pyrimidine-6-carbaldehyde | 0.254 mmol, 72 mg | ClC=1N=C(C2=C(N1)C=C(S2)C=O)N2CCOCC2 | C11H10ClN3O2S
reactant | 7-methyl-2,7-diaza-spiro[3.5]nonane | 0.321 mmol, 45 mg | CN1CCC2(CNC2)CC1 | C8H16N2
reactant | sodium triacetoxyborohydride | 0.382 mmol, 81 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | water | O | H2O
solvent | DCE | 7 mL | ClCCCl | C2H4Cl2
product | 2-Chloro-6-(7-methyl-2,7-diaza-spiro[3.5]non-2-ylmethyl)-4-morpholin-4-yl-thieno[3,2-d]pyrimidine | 31 mg, 30% | ClC=1N=C(C2=C(N1)C=C(S2)CN2CC1(C2)CCN(CC1)C)N1CCOCC1 | C19H26ClN5OS
